Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Compazine / Droperidol / Doxycycline
 
Attending: ___.
 
Chief Complaint:
Spontaneous Rupture of Membranes
 
Major Surgical or Invasive Procedure:
c/section

 
History of Present Illness:
Ms. ___ is a ___ year old G2P0 @ 38w4d gestation presented to 
OB Triage with spontaneous rupture of membranes. She had a 
scheduled cesarean section for ___. On 
presentation, she denied vaginal bleeding, but noted good fetal 
movement and contractions.  
 
Past Medical History:
PNC:
A+/RPR NR/ RI
OBHx: TAB in ___
GynHx: Fibroid uterus
PMH:
Homozygous for ___ V Leiden Deficiency
Depression, Anxiety
Dermoid Cyst
Perianal Fistula
Hx Reactive Airway Disease
Hypothyroid
PSHx:
cystectomy x 2
partial anal fistulectomy
 
Social History:
Ms. ___ is married. She denies any tobacco, drug or alcohol 
use.
 
Physical Exam:
(On Admission)
T: 98.3 BP: 100/71 HR: 73 RR: 20
Well Appearing
Abd: Gravid
SSE: +SROM
VE: Deferred
Ext: NT

 
Pertinent Results:
___ 09:54PM BLOOD WBC-9.9 RBC-3.92* Hgb-12.2 Hct-34.6* 
MCV-88 MCH-31.2 MCHC-35.3* RDW-13.2 Plt ___
___ 09:54PM BLOOD ___ PTT-28.3 ___
___ 09:00AM BLOOD ___ PTT-35.9* ___
___ 08:00AM BLOOD ___ PTT-39.5* ___
___ 07:44AM BLOOD ___
___ 09:54PM BLOOD ___
___ 09:00AM BLOOD ___
 
Brief Hospital Course:
Ms. ___ is a ___ year old G2P0 @ 38w4d gestation presented to 
OB Triage with spontaneous rupture of membranes. She had a 
scheduled cesarean section for ___. On 
presentation, she denied vaginal bleeding, but noted good fetal 
movement and contractions.

Ms. ___ underwent an elective primary cesarean section with 
delivery of a liveborn male with Apgars 8 and 9. For full detail 
of the delivery please see the operative note.

Due to Ms. ___ history ___ V Leiden she was started on 
Coumadin 5mg and bridged with Lovenox 30mg BID until her INR was 
therapeutic. She continued on this regimen through POD #2. On 
POD #3, her INR was found to be 3.2, therefore her Lovenox was 
discontinued and the Coumadin was held. She was discharged to 
home in good condition on Coumadin with instructions to 
follow-up with Dr. ___, regarding her Coumadin 
regimen. 
 
Medications on Admission:
Heparin 10,000U BID
Levothyroxine 100mcg
Prozac
PNV

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.
Disp:*60 Capsule(s)* Refills:*0*
2. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Fluoxetine 10 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).
Disp:*30 Capsule(s)* Refills:*2*
4. Warfarin 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
6. breast pump
cracked, painful nipples. difficulty latching on
7. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day) as needed for anxiety.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
c/section. momozygous for ___ V leiden. h/o multiple abd 
surgeries.

 
Discharge Condition:
good

 
Discharge Instructions:
per instruction sheet
 
Followup Instructions:
___